US07968535B2
7,8-Dihydro-5H-pyrido[3,2-b]azepine-6,9-dione 9-[(4-fluorophenyl)hydrazone]
183 mg (1.04 mmol) 5H-Pyrido[3,2-b]azepine-6,9(7H,8H)-dione and 186 mg (1.14 mmol) (4-fluorophenyl)hydrazine hydrochloride, and 90 mg (1.1 mmol) sodium acetate were suspended in glacial acetic acid (11 ml) and stirred for 1 hour at 70° C. After cooling to room temperature, the mixture was poured into a 5% aqueous sodium acetate solution. The mixture was extracted with 4×20 ml ethyl acetate. The combined organic layers were dried over sodium sulfate, and evaporated to dryness. Recrystallization from ethanol afforded a yellow solid. Yield: 170 mg (58%);m.p. 232-233° C.; IR (KBr): 3286 cm−1 (NH), 3119/3061 cm−1 (CH-arom.) 2956/2888 cm−1 (CH-aliph.), 1674 cm−1 (C═O); 1H-NMR (DMSO-d6, 400 MHz): δ (ppm)=2.54-2.58 (m, 2H, part of AA′XX′-system, azepine-CH2), 3.01-3.04 (m, 2H, part of AA′XX′-system, azepine-CH2), 7.03-7.07 (m, 2H, arom. H), 7.16-7.20 (m, 2H, arom. H), 7.33-7.40 (m, 2H, arom. H), 8.40 (dd, 1H, 4.4/1.6 Hz, arom. H), 9.35 (s, 1H, NH), 9.77 (s, 1H, NH); C15H13FN4O (284.30).

reactant | 5H-Pyrido[3,2-b]azepine-6,9(7H,8H)-dione | 1.04 mmol, 183 mg | N1=CC=CC=2NC(CCC(C21)=O)=O | C9H8N2O2
reactant | (4-fluorophenyl)hydrazine hydrochloride | 1.14 mmol, 186 mg | Cl.FC1=CC=C(C=C1)NN
reactant | sodium acetate | 1.1 mmol, 90 mg | C(C)(=O)[O-].[Na+]
reactant | KBr | [K+].[Br-]
solvent | acetic acid | 11 ml | C(C)(=O)O | C2H4O2
product | 7,8-Dihydro-5H-pyrido[3,2-b]azepine-6,9-dione 9-[(4-fluorophenyl)hydrazone] | FC1=CC=C(C=C1)NN=C1C2=C(NC(CC1)=O)C=CC=N2 | C15H13FN4O
